US03969373
To a solution of 3-(4-carboxyphenyl)-1-phenyl-1,2-propanedione in 100 ml of dry dimethylformamide cooled in an ice-bath was added, with stirring, 56 ml of dimethylformamide dimethyl acetal. The reaction mixture was stirred at 0°-5°C for 10 min. and then it was poured onto 1.2 l of ice-water and acidified with 130 ml of 1N hydrochloric acid. After stirring for 5 min., 1.8 l of water was added and the precipitate was collected, washed with water and air-dried. The filter cake was dissolved in 1.7 l of methylene chloride, dried over anhydrous sodium sulfate, filtered and the filtrate was concentrated to about 200 ml. Ether (200 ml) was added and the solution was concentrated to about 300 ml and allowed to stand at room temperature for 2 days. The solid was collected, washed with methylene chloride-ether (1:9) and dried at 80°C for 3 hrs. to give 17.4 g (44%) of 2-(4carboxyphenyl)-1-dimethylamino-4-phenyl-1-butene-3,4-dione as yellow crystals, m.p. 208°-209°C.

reactant | 3-(4-carboxyphenyl)-1-phenyl-1,2-propanedione | C(=O)(O)C1=CC=C(C=C1)CC(C(=O)C1=CC=CC=C1)=O | C16H12O4
reactant | dimethylformamide dimethyl acetal | 56 ml | COC(N(C)C)OC | C5H13NO2
reactant | hydrochloric acid | 1N, 130 ml | Cl | ClH
reactant | water | 1.8 l | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(4carboxyphenyl)-1-dimethylamino-4-phenyl-1-butene-3,4-dione | 17.4 g, 44% | C(=O)(O)C1=CC=C(C=C1)C(=CN(C)C)C(C(=O)C1=CC=CC=C1)=O | C19H17NO4
